* C:\Users\joopt\OneDrive\motor\rsv mille\tuning\logger\diy-afr-tuning\electronics\tps-sensor.asc
R1 N001 TPS-IN 22k
R2 N002 TPS-BUF 100
XU1-LM358 N001 TPS-BUF N003 0 TPS-BUF NC_01 NC_02 LT1008
V§TPS TPS-IN 0 SINE(2.5 1 10)
vbatt N003 0 14.4V
C1 N003 0 100n
D1 0 N002 D
R3 TPS-PROT N002 4.7k
.model D D
.lib C:\Users\joopt\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1
.lib LTC.lib
.backanno
.end
